US08067511B2
To solution of 1-phenylnaphthalen-2-ol (2.0 g, 9.1 mmol) dissolved in 100 mL of toluene, n-butyllithium (2.5 M in hexane, 3.6 mL) was slowly injected at −78° C. After stirring the mixture at ambient temperature for 12 hours, the reaction mixture was chilled to −78° C., and solution of (pentamethylcyclopentadienyl)titanium(IV) trichloride (2.5 g, 16.3 mmol) dissolved in 60 mL of toluene was slowly added thereto, and the reaction was continued at ambient temperature for 12 hours. When the reaction was completed, the reaction mixture was filtered through celite, and the solvent was removed. Recrystallization from purified toluene and hexane at −35° C., followed by filtration and drying under reduced pressure gave (dichloro) (pentamethylcyclopentadienyl) (1-phenylnaphthalen-2-yloxy)titanium(IV) (2.5 g) (yield: 58.2%) as red solid.

reactant | 1-phenylnaphthalen-2-ol | 9.1 mmol, 2.0 g | C1(=CC=CC=C1)C1=C(C=CC2=CC=CC=C12)O | C16H12O
reactant | n-butyllithium | 2.5 M, 3.6 mL | C(CCC)[Li]
reactant | (pentamethylcyclopentadienyl)titanium(IV) trichloride | 16.3 mmol, 2.5 g | [Cl-].[Cl-].[Cl-].CC1=C(C(=C(C1(C)[Ti+3])C)C)C
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | (dichloro) (pentamethylcyclopentadienyl) (1-phenylnaphthalen-2-yloxy)titanium(IV) | 2.5 g, yield: 58.2% | Cl[Ti](OC1=C(C2=CC=CC=C2C=C1)C1=CC=CC=C1)(C1(C(=C(C(=C1C)C)C)C)C)Cl | InChI=1S/C16H12O.C10H15.2ClH.Ti/c17-15-11-10-12-6-4-5-9-14(12)16(15)13-7-2-1-3-8-13;1-6-7(2)9(4)10(5)8(6)3;;;/h1-11,17H;1-5H3;2*1H;/q;;;;+3/p-3
